US04985419
A solution of 10-[(2RS)-1-diethylamino-2-propyl]2-phenothiazinecarbonitrile (5.66 g) and triethylamine (2.35 cc) in pyridine (113 cc) is treated with hydrogen sulphide for 1 hour and then stirred for 3 days at a temperature in the region of 20° C. The greenish solution obtained is purged with nitrogen, poured into distilled water (500 cc) and extracted with ethyl acetate (2×500 cc). The combined organic phases are washed successively with distilled water (2×200 cc) and with saturated aqueous sodium chloride solution (200 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg, 4 kPa) at 40° C. The residual orange oil (9.1 g) is purified by chromatography on a column (height: 25 cm, diameter: 3 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with ethyl acetate (750 cc) and collecting 50-cc fractions. The combined fractions 4 to 10 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-[2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbothioamide (6.2 g) is thereby obtained in the form of an orange oil.

reactant | 10-[(2RS)-1-diethylamino-2-propyl]2-phenothiazinecarbonitrile | 5.66 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N)CC | C20H23N3S
reactant | triethylamine | 2.35 cc | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 113 cc | N1=CC=CC=C1 | C5H5N
product | 2-phenothiazinecarbothioamide | 6.2 g | C1=C(C=CC=2SC3=CC=CC=C3NC12)C(N)=S | C13H10N2S2
